US08247415B2
Step A: Benzyl Propiolate
To a solution of 17.0 g (233 mmol) of propiolic acid in 600 mL of anhydrous DMF was added 39.9 g (233 mmol) of benzyl bromide followed by portionwise addition of 76.0 g (233 mmol) of Cs2CO3. After stirring at room temperature for 24 h, the reaction was quenched with a saturated aqueous ammonium chloride solution and extracted with EtOAc (3×200 mL). The combined extracts were washed with water then brine and dried over anhydrous sodium sulfate. The mixture was then filtered through a silica gel pad washing with hexanes, and the filtrate was evaporated under reduced pressure to afford a crude product. The crude product was purified by silica gel chromatography eluting with a 0-20% ethyl acetate in hexane gradient to afford the title compound as a colorless oil (13.8 g, 35%). 1H NMR (CDCl3, 500 MHz) δ 7.41 (m, 5H), 5.25 (s, 2H), 2.92 (s, 1H).

reactant | propiolic acid | 233 mmol, 17.0 g | C(C#C)(=O)O | C3H2O2
reactant | benzyl bromide | 233 mmol, 39.9 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Cs2CO3 | 233 mmol, 76.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 600 mL | CN(C)C=O | C3H7NO
product | Benzyl Propiolate | 13.8 g, 35% | C(C#C)(=O)OCC1=CC=CC=C1 | C10H8O2
